US07968571B2
To a solution of alanine methyl ester hydrochloride (10.0 g, 71.6 mmol) in 100 mL CH2Cl2 was added benzophenone imine (12.0 mL, 71.6 mmol). A white ppt gradually came out of solution as the reaction was allowed to proceed at rt for 15 h. The reaction was diluted with H2O and CH2Cl2, and the layers were separated, the organic layer was washed with brine, dried over Na2SO4, filtered and concentrated to afford methyl-N-(diphenylmethylene)alaninate as a viscous oil which was used without further purification. 1H NMR (CDCl3, 400 MHz) δ 7.62 (m, 2H), 7.47-7.29 (m, 6H), 7.19-7.16 (m, 2H), 4.16 (q, J=6.8 Hz, 1H), 3.7 (s, 3H, 1.40 (d, J=6.8 Hz, 3H).

reactant | alanine methyl ester hydrochloride | 71.6 mmol, 10.0 g | Cl.COC([C@@H](N)C)=O
reactant | benzophenone imine | 71.6 mmol, 12.0 mL | C(C1=CC=CC=C1)(C1=CC=CC=C1)=N | C13H11N
solvent | CH2Cl2 | 100 mL | C(Cl)Cl | CH2Cl2
solvent | H2O | O | H2O
product | methyl-N-(diphenylmethylene)alaninate | COC([C@@H](N=C(C1=CC=CC=C1)C1=CC=CC=C1)C)=O | C17H17NO2
